US06548493B1
(±)-cis-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
5,6,8,9,10,11-Hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (2.84 g, 11.4 mmol) was dissolved in TFA (35 mL). The reaction was cooled to 0° C. NaCNBH3 (2.15 g, 34.27 mmol) was added in small portions over 30 min, keeping the temperature less than 5° C. The reaction was stirred at 0° C. for 2 h. Ice was added to the reaction flask, and the reaction was basified with 50% NaOH until pH=14. Water (20 mL) was added to dissolve the precipitate. The reaction was extracted with CHCl3 (3×20 mL). The combined organic layers were washed with brine, dried, and concentrated to afford the title compound (1.67 g, 68%) as a pale-brown, amorphous solid. 1H NMR (CDCl3, 300 MHz) δ6.80-7.00 (m, 2H), 6.55-6.6.70 (m, 1H), 3.20-3.40 (m, 2H), 2.95-3.20 (m, 2H), 2.75-2.95 (m, 2H), 2.50-2.75 (m, 4H), 2.00-2.20 (m, 2H), 1.85-2.00 (m, 1H), 1.70-1.85 (m, 1H) ppm.

reactant | 5,6,8,9,10,11-Hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 11.4 mmol, 2.84 g | C1=CC=C2CCCN3C2=C1C1=C3CCNC1 | C14H16N2
reactant | NaCNBH3 | 34.27 mmol, 2.15 g | [BH3-]C#N.[Na+]
reactant | NaOH | [OH-].[Na+]
reactant | Water | 20 mL | O | H2O
solvent | TFA | 35 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (±)-cis-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 1.67 g, 68% | C1=CC=C2CCCN3C2=C1[C@@H]1[C@H]3CCNC1 | C14H18N2
